US06753331B1
To a solution of 1-(5-chloroindol-2-ylsulphonyl)-4-[(2-tert-butyloxypyrimidin-4-yl)benzoyl]piperazine (200 mg, 0.361 mmol) in dichloromethane and methanol (10 ml of a 4:1 mixture) was added a solution of hydrogen chloride in methanol (0.40 ml of ˜4.5 M, 1.8 mmol), and the reaction stirred at ambient temperature for 1 hr. The solvent was removed in vacuo and the residue crystallised from ethanol to give 1-(5-chloroindol-2-ylsulphonyl)-4-[(2-hydroxypyrimidin-4-yl)benzoyl]piperazine as a colourless solid.

reactant | 1-(5-chloroindol-2-ylsulphonyl)-4-[(2-tert-butyloxypyrimidin-4-yl)benzoyl]piperazine | 0.361 mmol, 200 mg | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C1=NC(=NC=C1)OC(C)(C)C)=O | C27H28ClN5O4S
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | methanol | 1.8 mmol, ˜4.5 M, 0.40 ml | CO | CH4O
product | 1-(5-chloroindol-2-ylsulphonyl)-4-[(2-hydroxypyrimidin-4-yl)benzoyl]piperazine | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C1=NC(=NC=C1)O)=O | C23H20ClN5O4S
